US07615562B2
(4-Benzo[b]thiophen-2-yl-pyrimidin-2-yl)-(1-benzyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method A, starting from 2,4-dichloro-pyrimidine, benzo[b]thiophen-2-boronic acid and 4-amino-1-benzyl-piperidine.

reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzo[b]thiophen-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 4-amino-1-benzyl-piperidine | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
product | (4-Benzo[b]thiophen-2-yl-pyrimidin-2-yl)-(1-benzyl-piperidin-4-yl)-amine | S1C2=C(C=C1C1=NC(=NC=C1)NC1CCN(CC1)CC1=CC=CC=C1)C=CC=C2 | C24H24N4S
